US09290496B2
Step 1: Preparation of 1-(3-methoxy-4-nitro-1H-pyrazol-1-yl)propan-2-ol
To a suspension of 3-methoxy-4-nitro-1H-pyrazole (2.00 g, 14.0 mmol, 1.00 eq) and cesium carbonate (13.7 g, 41.9 mmol, 3.0 eq) was added 1-bromo-2-propanol (2.70 mL, 22.4 mmol, 1.60 eq, 70% purity) and the reaction mixture was heated at 60° C. After 3.5 hr, an additional portion of 1-bromo-2-propanol (2.70 mL, 22.4 mmol, 1.60 eq, 70% purity) was added. After a further 12 hr, the reaction mixture was cooled to ambient temperature and diluted with water (100 mL) and EtOAc (50 mL). The layers were separated and the aqueous phase was extracted with EtOAc (4×50 mL). The combined organics were washed with water (50 mL) and brine (50 mL), dried (Na2SO4), concentrated, and purified via flash chromatography on silica gel eluting with a gradient of 0-50% EtOAc in heptane to give the title compound (945 mg, 34% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.09 (s, 1H), 4.32-4.22 (m, 1H), 4.06 (s, 3H), 4.05 (dd, J=5.0, 13.0 Hz, 1H), 3.87 (dd, J=8.0, 13.0 Hz, 1H), 2.60 (br. s., 1H), 1.29 (d, J=6.4 Hz, 3H). m/z (APCI+) for C7H12N3O4 201.9 (M+H)+.

reactant | 3-methoxy-4-nitro-1H-pyrazole | 14.0 mmol, 2.00 g, 1.00 eq | COC1=NNC=C1[N+](=O)[O-] | C4H5N3O3
reactant | cesium carbonate | 41.9 mmol, 13.7 g, 3.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-propanol | 22.4 mmol, 2.70 mL, 1.60 eq | BrCC(C)O | C3H7BrO
reactant | 1-bromo-2-propanol | 22.4 mmol, 2.70 mL, 1.60 eq | BrCC(C)O | C3H7BrO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(3-methoxy-4-nitro-1H-pyrazol-1-yl)propan-2-ol | 945 mg, 34% yield | COC1=NN(C=C1[N+](=O)[O-])CC(C)O | C7H11N3O4
